US07217730B2
5-Bromo-1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-8-fluoro-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole
To a solution of (5-bromo-8-fluoro-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-acid ethyl ester (2.0 g, 5.02 mmol) in THF (10 mL) was added LAH (5.27 mL of 1.0 M in THF, 5.27 mmol) slowly at room temperature. The mixture was stirred for 30 minutes at room temperature. The reaction mixture was quenched by the addition of H2O (0.5 mL) and then 10% NaOH (0.5 mL) was added to the mixture. Na2SO4 was added to the mixture and the resulting mixture was filtered. The filtrate was concentrated to give 1.79 g (100%) of 2-(5-bromo-8-fluoro-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol as yellow oil. A mixture of 2-(5-bromo-8-fluoro-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol (1.79 g, 5.02 mmol), imidazole (0.854 g, 12.55 mmol) and tert-butyldimethylsilyl chloride (0.909 g, 6.03 mmol) in DMF (10 mL) was stirred overnight at room temperature. The reaction mixture was diluted with EtOAc (100 mL). The organic solution was washed with H2O (5×100 mL) and brine (100 mL), dried (Na2SO4), and concentrated. The residue was purified by flash chromatography (silica, 7% EtOAc in hexanes) to give 2.29 g (97%) of title compound as a white solid. 1H NMR (CDCl3): 300 MHz δ 8.97 (bs, 1H), 6.95 (dd, J=8.37, 4.17 Hz, 1H), 6.57 (d, J=10.41, 8.37 Hz, 1H), 3.98–3.54 (m, 4H), 3.00 (m, 2H), 2.00–0.90 (m, 6H), 0.80 (s, 9H), 0.74 (d, J=7.32 Hz, 3H), 0.06 (s, 3H), 0.03 (s, 3H).

reactant | 2-(5-bromo-8-fluoro-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol | 5.02 mmol, 1.79 g | BrC1=C2C3=C(NC2=C(C=C1)F)C(OCC3)(CCC)CCO | C16H19BrFNO2
reactant | imidazole | 12.55 mmol, 0.854 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 6.03 mmol, 0.909 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-Bromo-1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-8-fluoro-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indole | 2.29 g, 97% | BrC1=C2C3=C(NC2=C(C=C1)F)C(OCC3)(CCC)CCO[Si](C)(C)C(C)(C)C | C22H33BrFNO2Si
